US08247610B2
b) 2-[5-(2,3-Dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid
A solution of 2-[5-(2,3-dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester, MeOH (1 mL), THF (1 mL) and 10% aq. LiOH solution (0.5 mL) was stirred at 40° C. overnight. The solution was then acidified with aq. 2M HCl and extracted with DCM (3×1 mL). The organic layers were filtered through PTFE filter and concentrated to yield an oil. The residue was purified using reverse phase preparative HPLC (H2O: MeCN) to give the title product in 8% yield as a yellow oil.

reactant | 2-[5-(2,3-dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)N1CCC2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F)=O | C28H28F3NO2
reactant | MeOH | 1 mL | CO | CH4O
reactant | LiOH | 0.5 mL | [Li+].[OH-]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-[5-(2,3-Dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | 8% yield | N1(CCC2=CC=CC=C12)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C27H26F3NO2
